US04066635
a. Benzyloxycarbonyl-L-prolyl-β-alanine methyl ester
24.9 g of benzyloxycarbonyl-L-proline were dissolved in 200 ml of dimethylformamide, cooled to -20° C and treated with 11.1 ml of N-methylmorpholine and 13.0 ml of chloroformic acid isobutyl ester. The suspension was stirred for a further 2 minutes at -° C and then treated with a suspension, pre-cooled to -20° C, prepared from 14.0 g of β-alanine methyl ester hydrochloride and 11.1 ml of N-methylmorpholine in 100 ml of dimethylformamide. The mixture was stirred for 30 minutes at a temperature below -10° C and for a further 30 minutes at room temperature, filtered and the filtrate concentrated in vacuo. The oily residue was dissolved in 1.2 liters of ethyl acetate and washed three times, each time with 1-N hydrochloric acid, water, 10% sodium carbonate solution and saturated sodium chloride solution, and dried over sodium sulphate. The organic phase was concentrated in vacuo and the oily residue crystallised from ethyl acetate/hexane. Yield: 22.8 g; melting point 55° C; [α]D25 = -50.7° (c = 1 in methanol).

reactant | benzyloxycarbonyl-L-proline | 24.9 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | N-methylmorpholine | 11.1 ml | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid isobutyl ester | 13.0 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | β-alanine methyl ester hydrochloride | 14.0 g | Cl.COC(CCN)=O
reactant | N-methylmorpholine | 11.1 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonyl-L-prolyl-β-alanine methyl ester | COC(CCNC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)=O | C17H22N2O5
